US05082932
29.6 ml (0.556 mol) of 70.4%-strength nitric acid were diluted with 82 ml of water. 80.0 g (0.298 mol) of crude 1-amino-2-hydroxy-7-methoxynaphthalene-4-sulfonic acid were added while stirring to this solution of the oxidizing agent at not more than 30° C. in the course of one hour. Stirring was continued for 1 hour, followed by cooling to 10° C., and a solution of 17.6 g of ammonium chloride in 46 ml of water was added. The suspension was cooled to 0° C. for two hours and the product filtered off by suction. The crystals were rinsed first with 25 ml of saturated ammonium chloride solution and then with 40 ml of ethanol. After drying, 77.4 g (91.3%) of crude ammonium 7-methoxy-1,2-naphthoquinone-4-sulfonate were obtained.

reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | 1-amino-2-hydroxy-7-methoxynaphthalene-4-sulfonic acid | 0.298 mol, 80.0 g | NC1=C(C=C(C2=CC=C(C=C12)OC)S(=O)(=O)O)O | C11H11NO5S
reactant | ammonium chloride | 17.6 g | [Cl-].[NH4+]
solvent | water | 82 ml | O | H2O
solvent | water | 46 ml | O | H2O
product | ammonium 7-methoxy-1,2-naphthoquinone-4-sulfonate | 77.4 g, 91.3% | COC1=CC=C2C(=CC(C(C2=C1)=O)=O)S(=O)(=O)[O-].[NH4+] | InChI=1S/C11H8O6S.H3N/c1-17-6-2-3-7-8(4-6)11(13)9(12)5-10(7)18(14,15)16;/h2-5H,1H3,(H,14,15,16);1H3
